US09193721B2
The methyl 5-chloro-2-(3-fluorophenyl)nicotinate (1.00 g, 3.76 mmol) was combined with freshly prepared 2-[(aminooxy)sulfonyl]-1,3,5-trimethylbenzene (0.972 g, 4.52 mmol) ether solution in acetonitrile (20.0 mL) at room temperature. The reaction was stirred for 24 hours and became a tan colored slurry. The slurry was added portion wise to a vigorously stirring suspension of tert-butyl propiolate (1.55 mL, 11.3 mmol), N,N-dimethylformamide (20.0 mL, 258 mmol) and potassium carbonate (2.60 g, 18.8 mmol) open to the air. After stirring for 15 minutes, the reaction was a dark red brown suspension. This was allowed to stir for 5 hours at room temperature. The reaction was taken up in ethyl acetate and decanted from the solids. The organic layer was washed with water, brine, dried over magnesium sulfate and concentrated to give the crude product as a reddish brown oil. The product was purified on silica gel eluting hexane:ethyl acetate gradient to give 3-tert-butyl 6-methyl 4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridine-3,6-dicarboxylate (0.46 g, 30%) as a semi-solid residue. LCMS calculated for C20H19ClFN2O4 (M+H)+: m/z=405.1. found: 404.9.

reactant | methyl 5-chloro-2-(3-fluorophenyl)nicotinate | 3.76 mmol, 1.00 g | ClC=1C=NC(=C(C(=O)OC)C1)C1=CC(=CC=C1)F | C13H9ClFNO2
reactant | 2-[(aminooxy)sulfonyl]-1,3,5-trimethylbenzene | 4.52 mmol, 0.972 g | NOS(=O)(=O)C1=C(C=C(C=C1C)C)C | C9H13NO3S
reactant | tert-butyl propiolate | 11.3 mmol, 1.55 mL | C(C#C)(=O)OC(C)(C)C | C7H10O2
reactant | N,N-dimethylformamide | 258 mmol, 20.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 18.8 mmol, 2.60 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20.0 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-tert-butyl 6-methyl 4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridine-3,6-dicarboxylate | 0.46 g, 30% | ClC=1C=2N(C(=C(C1)C(=O)OC)C1=CC(=CC=C1)F)N=CC2C(=O)OC(C)(C)C | C20H18ClFN2O4
